US04549029
A 376 g sample of 2,4-dimethyl-2-phenyl-4-pentenal (prepared via the method of U.S. Pat. No. 3,996,290) was added to 38 g of lithium aluminum hydride in 1200 ml of anhydrous ether over a 1 hr period with cooling to maintain 25° C. At the end of the addition, 76 g of water and 61 g of 10% aqueous sodium hydroxide were carefully added and the mixture was stirred for 2 hrs. The mixture was filtered, concentrated on a rotary evaporator and distilled, affording 370 g of 2,4-dimethyl-2-phenyl-4-penten-1-ol, (bp 125°-127°/0.5 mm Hg), in a 97% yield and a purity of 99%. Spectral data were in agreement with the assigned structure.

reactant | 2,4-dimethyl-2-phenyl-4-pentenal | CC(C=O)(CC(=C)C)C1=CC=CC=C1 | C13H16O
reactant | lithium aluminum hydride | 38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 76 g | O | H2O
reactant | sodium hydroxide | 61 g | [OH-].[Na+]
solvent | ether | 1200 ml | CCOCC | C4H10O
product | 2,4-dimethyl-2-phenyl-4-penten-1-ol | 370 g, 97% yield | CC(CO)(CC(=C)C)C1=CC=CC=C1 | C13H18O
